US08217177B2
6-((5-(3,5-difluorophenyl)isoxazolo[5,4-b]pyridin-3-yl)difluoromethyl)quinoline
To a pressure vessel was added cesium carbonate (0.61 g, 1.9 mmol), PdCl2(dppf)-CH2Cl2 adduct (26 mg, 0.031 mmol), 1-(6-chloro-3-fluoropyridin-2-yl)-2,2-difluoro-2-(quinolin-6-yl)ethanone oxime (0.26 g, 0.63 mmol) and 3,5-difluorophenylboronic acid (0.15 g, 0.94 mmol) in anhydrous DMF (5 mL) and water (1 mL). The mixture flushed with argon, sealed and stirred at 80° C. for one hour. The suspension was concentrated, triturated with water and filtered to afford a tan solid, purification by MPLC (eluted with a gradient of 20 to 50% ethyl acetate in hexanes) afforded the product as a white solid (23 mg, 9%). MS m/z=410.0 [M+1]+ Calc'd for C22H11F4N3O: 409.3.

reactant | cesium carbonate | 1.9 mmol, 0.61 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(6-chloro-3-fluoropyridin-2-yl)-2,2-difluoro-2-(quinolin-6-yl)ethanone oxime | 0.63 mmol, 0.26 g | ClC1=CC=C(C(=N1)C(C(C=1C=C2C=CC=NC2=CC1)(F)F)=NO)F | C16H9ClF3N3O
reactant | 3,5-difluorophenylboronic acid | 0.94 mmol, 0.15 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.031 mmol, 26 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 6-((5-(3,5-difluorophenyl)isoxazolo[5,4-b]pyridin-3-yl)difluoromethyl)quinoline | 23 mg, 9% | FC=1C=C(C=C(C1)F)C=1C=C2C(=NC1)ON=C2C(C=2C=C1C=CC=NC1=CC2)(F)F | C22H11F4N3O
